US04431637
N,N',N"-Tris[4-[[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyl]oxy]phenyl]-1,3,5-benzenetrisulfonamide
To a solution of 2.45 g of 4-aminophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranoside in pyridine:acetonitrile (1:1) was added 440 mg of 1,3,5-benzenetrisulfonyl chloride in 2 ml of acetonitrile. The mixture was stirred overnight, then poured into 250 ml of water and filtered through diatomaceous earth. The filtrate was extracted with two 100 ml portions of ethyl acetate. The extracts were combined, washed with 100 ml of 1% hydrochloric acid, then 100 ml of brine, dried and filtered through hydrous magnesium silicate. This filtrate was evaporated to a solid residue which was purified by column chromatography on silica gel using a gradient system of hexane:ethyl acetate (1:1) to (1:3). Cuts of 250 ml were taken. Fractions 11-16 were combined, evaporated and crystallized from 50 ml of ethanol, giving 1.13 g of the desired intermediate as a white powder, mp 148°-151° C.

reactant | 4-aminophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranoside | 2.45 g | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)N)O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C32H41NO18
reactant | 1,3,5-benzenetrisulfonyl chloride | 440 mg | C1(=CC(=CC(=C1)S(=O)(=O)Cl)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H3Cl3O6S3
reactant | water | 250 ml | O | H2O
solvent | pyridine acetonitrile | N1=CC=CC=C1.C(C)#N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N,N',N"-Tris[4-[[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyl]oxy]phenyl]-1,3,5-benzenetrisulfonamide | 1.13 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O)OC1=CC=C(C=C1)NS(=O)(=O)C1=CC(=CC(=C1)S(=O)(=O)NC1=CC=C(C=C1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O)S(=O)(=O)NC1=CC=C(C=C1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O | C102H123N3O60S3
